US04308052
Preparation of S-(2-Hydroxyethyl) 2-Oxo-3-Benzothiazolineethanethioate
A charge containing 0.1 moles of mercaptoethanol, 0.1 moles of 85% potassium hydroxide and 250 ml of acetone is stirred for 10 minutes. To this stirred mixture is added 0.1 moles of 2-oxo-3-benzothiazolineacetyl chloride in one portion. An exothermic reaction set in causing a temperature rise from 30° to about 40° C. After stirring for about 24 hours at room temperature, 500 ml of water and 500 ml of ethyl ether are added and stirring continued at 25°-30° C. for 15 minutes. The separated ether layer is washed with water until neutral to litmus and dried over sodium sulfate. The ether is removed in vacuo at a maximum temperature of 80°-90° C. at 1-2 minutes. Analytical data is summarized in Table I, below.

reactant | mercaptoethanol | 0.1 moles | SC(C)O | C2H6OS
reactant | potassium hydroxide | 0.1 moles | [OH-].[K+]
reactant | acetone | 250 ml | CC(=O)C | C3H6O
reactant | 2-oxo-3-benzothiazolineacetyl chloride | 0.1 moles | O=C1SC2=C(N1CC(=O)Cl)C=CC=C2 | C9H6ClNO2S
solvent | ethyl ether | 500 ml | C(C)OCC | C4H10O
solvent | water | 500 ml | O | H2O
product | S-(2-Hydroxyethyl) 2-Oxo-3-Benzothiazolineethanethioate | O=C1SC2=C(N1CC(SCCO)=O)C=CC=C2 | C11H11NO3S2
